### PR TITLE
[Merged by Bors] - feat(Topology/Sets): disjoint `Compacts` form an open set

### PR DESCRIPTION
**Pull request by gasparattila**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by gasparattila** [comment]
easy

File: Mathlib/Topology/Sets/VietorisTopology.lean [hunk 1]
```diff
@@ -369,6 +369,15 @@ theorem isClopen_singleton_bot : IsClopen {(⊥ : Compacts α)} := by
   convert! vietoris.isClopen_singleton_empty.preimage continuous_coe
   rw [← coe_bot, ← image_singleton (f := SetLike.coe), SetLike.coe_injective.preimage_image]
 
+theorem isOpen_setOf_disjoint [T2Space α] :
+    IsOpen {p : Compacts α × Compacts α | Disjoint (p.1 : Set α) p.2} := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Sets/VietorisTopology.lean:373]: I don't think you should coerce to `Set` here.
```suggestion
    IsOpen {p : Compacts α × Compacts α | Disjoint p.1 p.2} := by
```

File: Mathlib/Topology/Sets/VietorisTopology.lean [hunk 2]
```diff
@@ -686,6 +695,10 @@ theorem isClosed_inter_nonempty_of_isClosed {F : Set α} (h : IsClosed F) :
     IsClosed {K : NonemptyCompacts α | (↑K ∩ F).Nonempty} :=
   (vietoris.isClosed_inter_nonempty_of_isClosed h).preimage continuous_coe
 
+theorem isOpen_setOf_disjoint [T2Space α] :
+    IsOpen {p : NonemptyCompacts α × NonemptyCompacts α | Disjoint (p.1 : Set α) p.2} :=
```
Comment (j-loreaux) [inline Mathlib/Topology/Sets/VietorisTopology.lean:719]: I realize that here it is necessary since there is no `⊥`.

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Topology/Sets/VietorisTopology.lean (hunk 1 above)
Comment (gasparattila) [reply Mathlib/Topology/Sets/VietorisTopology.lean:373]: It's not clear when this is useful. I expect that almost all uses of this lemma would be immediately followed by a rewrite to the set version, especially since taking the intersection of `Compacts` requires an additional `T2Space` assumption. It would also create an inconsistency with the `NonemptyCompacts` version.

File: Mathlib/Topology/Sets/VietorisTopology.lean (hunk 2 above)
Comment (gasparattila) [reply Mathlib/Topology/Sets/VietorisTopology.lean:719]: If we redefine `Disjoint` using `IsBot` instead of `OrderBot`, then we can avoid the coercion here. But this would be a large refactor, which seems pointless without a real use case.

File: Mathlib/Topology/Sets/VietorisTopology.lean (hunk 1 above)
Comment (gasparattila) [reply Mathlib/Topology/Sets/VietorisTopology.lean:373]: Sorry, I just realized that we already need `T2Space` for this lemma. Still, I expect that in many cases, we may have hypotheses relating `Compacts` to non-compact sets, which means that we would still need to do this rewrite.

**Comment by gasparattila** [comment]
I added the version without the coercion for `Compacts`, but I also kept the version with the coercion, since I think that it's usually easier to use, and it's also needed for the proof of the `NonemptyCompacts` version.

**Review by j-loreaux — COMMENTED** [review]
bors merge
